US07943607B2
3-[(8-Fluoro-2,3-dimethyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
Potassium carbonate (152 mg, 1.1 mmol) was added to a solution of 8,9-difluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one (117 mg, 0.55 mmol) and 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (223 mg, 0.55 mmol) in 1-methyl-2-pyrrolidinone (10 mL) and the mixture heated at 140° C. for 3 days. The mixture was concentrated in vacuo and the residue suspended in ethyl acetate (20 mL). The suspension was filtered through Celite® and evaporated. The residue was purified by column chromatography (eluting with 0-20% methanol in DCM) to afford a colourless gum which solidified on evaporation from 30% methanol in DCM to afford the title compound as a colourless solid (109 mg, 33%).

reactant | Potassium carbonate | 1.1 mmol, 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 8,9-difluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 0.55 mmol, 117 mg | FC1=C(C2=C(C(N(CCO2)C)=O)C=C1)F | C10H9F2NO2
reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.55 mmol, 223 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)C | C20H31N3O4Si
solvent | 1-methyl-2-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 3-[(8-Fluoro-2,3-dimethyl-4-oxo-3,4-dihydro-2H-1,3-benzoxazin-7-yl)oxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 109 mg, 33% | FC1=C(C=CC=2C(N(C(OC21)C)C)=O)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)O[C@H](CO)C | C24H25FN4O6
